US07282595B2
N-[2,4-dichlorobenzoyl]-benzofuran-6-sulfonamide
To a solution of benzofuran-6-sulfonamide (120 mg, 0.608 mmol) in CH2Cl2 (3.6 mL) and pyridine (2.3 mL) is added DMAP (75 mg, 0.611 mmol) and 2,4-dichlorobenzoyl chloride (153 mg, 0.730 mmol) and the reaction is stirred at room temperature overnight. The reaction mixture is diluted with CH2Cl2 then washed with 2 M HCl (2×) and dried (MgSO4). The organic solution is filtered and evaporated under vacuum to give the crude product. Flash chromatography on silica gel eluting with a gradient {CH2Cl2to CH2Cl2:(CHCl3:MeOH) [4:1(9:1)]} gives the title compound as a tan solid. ES(−)MS m/z 368, (M−H)− consistent with 2 Cl.

reactant | benzofuran-6-sulfonamide | 0.608 mmol, 120 mg | O1C=CC2=C1C=C(C=C2)S(=O)(=O)N | C8H7NO3S
reactant | 2,4-dichlorobenzoyl chloride | 0.730 mmol, 153 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 3.6 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2.3 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.611 mmol, 75 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[2,4-dichlorobenzoyl]-benzofuran-6-sulfonamide | ClC1=C(C(=O)NS(=O)(=O)C2=CC3=C(C=CO3)C=C2)C=CC(=C1)Cl | C15H9Cl2NO4S
